US08865712B2
f) 5-(5-Bromo-2-chloro-pyridin-3-yl)-5-fluoromethyl-morpholin-3-one
To a suspension of 5-(5-bromo-2-chloro-pyridin-3-yl)-5-hydroxymethyl-morpholin-3-one (547 mg, 1.70 mmol) in THF (13.6 ml) was added at 0° C. within 5 min a solution of DAST (1.01 ml, 7.65 mmol) in THF (7.2 ml), the reaction mixture was stirred at room temperature for 6 h. The mixture was cooled to 0° C., halfsaturated aq. Na2CO3 was added and the mixture was extracted with EtOAc, the combined organic layers were washed with halfsaturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 1:4) to provide the title compound as colorless solid.

reactant | 5-(5-bromo-2-chloro-pyridin-3-yl)-5-hydroxymethyl-morpholin-3-one | 1.70 mmol, 547 mg | BrC=1C=C(C(=NC1)Cl)C1(COCC(N1)=O)CO | C10H10BrClN2O3
reactant | DAST | 7.65 mmol, 1.01 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 13.6 ml | C1CCOC1 | C4H8O
solvent | THF | 7.2 ml | C1CCOC1 | C4H8O
product | 5-(5-Bromo-2-chloro-pyridin-3-yl)-5-fluoromethyl-morpholin-3-one | BrC=1C=C(C(=NC1)Cl)C1(COCC(N1)=O)CF | C10H9BrClFN2O2
